US04889553
(a) 1-Ethoxycarbonyl-1-phenythiosemicarbazide
A mixture of 1-phenylthiosemicarbazide (25 g), ethanol (180 ml) and ethyl chloroformate (17 ml) was heated under reflux with stirring for 30 minutes. The mixture was cooled to room temperature and the solid was filtered, washed with ethanol and then with ether to give 28.9 g of the desired product.

reactant | 1-phenylthiosemicarbazide | 25 g | C1(=CC=CC=C1)NNC(=S)N | C7H9N3S
reactant | ethyl chloroformate | 17 ml | ClC(=O)OCC | C3H5ClO2
solvent | ethanol | 180 ml | C(C)O | C2H6O
product | 1-Ethoxycarbonyl-1-phenythiosemicarbazide | 28.9 g | C(C)OC(=O)N(NC(=S)N)C1=CC=CC=C1 | C10H13N3O2S
